US07494992B2
Preparation 39: 3-cyclohexyl-3-methylpiperidine hydrochloride salt
To a solution of 3-methyl-3-phenylpiperidine (500 mg, 2.85 mmol) in methanol (8 ml) was added concentrated hydrochloric acid (1 ml) and platinum (IV) oxide (500 mg). The reaction mixture was hydrogenated at 50 psi for 3 h before filtering through Celite® and concentrating. The crude residue was dissolved in dichloromethane and washed with sodium carbonate and concentrated to give a crude semi solid. The crude product was dissolved in diethyl ether (15 ml) and methanol (5 ml) and hydrogen chloride (1M in diethyl ether, 30 ml) was added to afford a white solid which was filtered to give the pure product (0.41 g, 66%).

reactant | 3-methyl-3-phenylpiperidine | 2.85 mmol, 500 mg | CC1(CNCCC1)C1=CC=CC=C1 | C12H17N
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | hydrogen chloride | 1M, 30 ml | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
catalyst | platinum (IV) oxide | 500 mg | [Pt](=O)=O
solvent | methanol | 5 ml | CO | CH4O
product | 3-cyclohexyl-3-methylpiperidine hydrochloride salt | 0.41 g, 66% | Cl.C1(CCCCC1)C1(CNCCC1)C | InChI=1S/C12H23N.ClH/c1-12(8-5-9-13-10-12)11-6-3-2-4-7-11;/h11,13H,2-10H2,1H3;1H
